US09227985B2
Step 6. 3-(2-Oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl)pyridine-2-carbonitrile
A suspension of 4-(2-bromopyridin-3-yl)-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one (964 mg, 2.90 mmol), zinc cyanide (1.00 g, 8.70 mmol) and tetrakis(triphenylphosphine)palladium(0) (335 mg, 0.290 mmol) in N,N-dimethylformamide (20.4 mL) was degassed and heated in a microwave at 160° C. for 20 min. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate, water and brine, dried over magnesium sulfate, filtered, and concentrated to give the crude product. The crude product was suspended in hot ethyl acetate and diluted with hexanes to twice the volume, which resulted in the precipitation of a solid. The solid was collected by filtration and washed with ethyl acetate to give the desired product (656 mg). The filtrate was concentrated to a residue which was purified by preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product that was combined with the precipitated material (0.709 g total, 88% combined yield) as a racemic mixture. LCMS calculated for C15H11N4O2 (M+H)+: m/z=279.1. found: 278.9.

reactant | 4-(2-bromopyridin-3-yl)-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | 2.90 mmol, 964 mg | BrC1=NC=CC=C1C1COC2=C3N1C(NC3=CC=C2)=O | C14H10BrN3O2
reactant | N,N-dimethylformamide | 20.4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 8.70 mmol, 1.00 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.290 mmol, 335 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-Oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl)pyridine-2-carbonitrile | 656 mg | O=C1NC2=CC=CC3=C2N1C(CO3)C=3C(=NC=CC3)C#N | C15H10N4O2
